* IHP SG13G2 CMOS Inverter — Transient stall regression test
* Previously stuck at ~20% due to step-starvation bug
.LIB "C:\EDA\LumenCircuitStudio\external\ihp_pdk\ihp-sg13g2\libs.tech\ngspice\models\cornerMOSlv.lib" mos_tt

XM1 net2 net0 net1 net1 sg13_lv_pmos l=0.13u w=0.15u ng=1 m=1
XM3 net2 net0 0 0 sg13_lv_nmos l=0.13u w=0.15u ng=1 m=1
V1 net1 0 DC 2
V3 net0 0 DC 0 PULSE(0 2 0 10n 10n 1u 2u)
C0 net2 0 100f

* Accuracy: Very High
.OPTIONS ACCURACY=VERYHIGH METHOD=AUTO ADAPTIVE=1 RELTOL=1e-4 VNTOL=100n ABSTOL=10f TRTOL=3e-4 TRABSTOL=100n ITL4=120

* Analysis: DC Operating Point
.OP

* Analysis: Transient
.TRAN 5p 5u 0 5p

.END
